US07622480B2
F. Preparation of 3{-([1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]piperidin-1-ylmethyl}benzoic acid
0.58 g (1.28 mmol) of 3-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-ylmethyl}-benzoic acid methyl ester were dissolved in 5 ml of ethyl alcohol and 1.93 ml of 2 N sodium hydroxide were added. After stirring at room temperature for 20 hours, the solvent was evaporated under reduced pressure and the residue dissolved in water. The mixture was neutralised with 2 N hydrochloric acid and extracted twice with dichloromethane. The organic phase was washed with water and brine, dried with magnesium sulphate, filtrated and evaporated. The crude material weighed 0.65 g and was purified by flash chromatography over silica gel affording 0.3 g (54% of yield) of the expected product.

reactant | 3-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-ylmethyl}-benzoic acid methyl ester | 1.28 mmol, 0.58 g | COC(C1=CC(=CC=C1)CN1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOCC)=O | C25H31N3O3
reactant | sodium hydroxide | 2 N, 1.93 ml | [OH-].[Na+]
reactant | ethyl alcohol | 5 ml | C(C)O | C2H6O
product | ([1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]piperidin-1-ylmethyl}benzoic acid | C(C)OCCN1C=C(C=2C1=NC=CC2)C(N2CCCCC2)C2=C(C(=O)O)C=CC=C2 | C24H29N3O3
